US04016281
A mixture of 21.35 g. of 4-phenylpiperidin-4-ol hydrochloride, 20.6 g. of 6,7-dimethoxy-1-tetralone and 8 g. of paraformaldehyde in 200 ml. of ethanol (or isopropanol) is heated under reflux for 4 hours. The solvent is evaporated and the residue is made into a slurry with acetone/ether and is filtered off. 2-(4-phenyl-4-hydroxypiperidinomethyl)-6,7-dimethoxy-1-tetralone hydrochloride, m.p. 175°-177°, is obtained.

reactant | 4-phenylpiperidin-4-ol hydrochloride | Cl.C1(=CC=CC=C1)C1(CCNCC1)O
reactant | 6,7-dimethoxy-1-tetralone | COC=1C=C2CCCC(C2=CC1OC)=O | C12H14O3
reactant | paraformaldehyde | C=O | CH2O
reactant | ethanol | C(C)O | C2H6O
solvent | isopropanol | C(C)(C)O | C3H8O
product | 2-(4-phenyl-4-hydroxypiperidinomethyl)-6,7-dimethoxy-1-tetralone hydrochloride | Cl.C1(=CC=CC=C1)C1(CCN(CC1)CC1C(C2=CC(=C(C=C2CC1)OC)OC)=O)O | InChI=1S/C24H29NO4.ClH/c1-28-21-14-17-8-9-18(23(26)20(17)15-22(21)29-2)16-25-12-10-24(27,11-13-25)19-6-4-3-5-7-19;/h3-7,14-15,18,27H,8-13,16H2,1-2H3;1H
